US09238640B2
To a solution of N-isopropyl-N-(piperidin-4-yl)acetamide hydrogen chloride (0.260 g, 1.41 mmol) in DMF (5 mL) was added 4-fluorobenzaldehyde (0.18 mL, 1.69 mmol) and K2CO3 (0.233 g, 1.69 mmol). The resulting solution was heated to 120° C. overnight, and cooled. The cooled solution was diluted with water and extracted with CH2Cl2. The organics were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The material was purified by flash chromatography on silica gel, eluting with 0% to 5% MeOH/CH2Cl2, to afford N-(1-(4-formylphenyl)piperidin-4-yl)-N-isopropylacetamide (0.290 g, 71%).

reactant | N-isopropyl-N-(piperidin-4-yl)acetamide hydrogen chloride | 1.41 mmol, 0.260 g | Cl.C(C)(C)N(C(C)=O)C1CCNCC1
reactant | 4-fluorobenzaldehyde | 1.69 mmol, 0.18 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | K2CO3 | 1.69 mmol, 0.233 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(1-(4-formylphenyl)piperidin-4-yl)-N-isopropylacetamide | 0.290 g, 71% | C(=O)C1=CC=C(C=C1)N1CCC(CC1)N(C(C)=O)C(C)C | C17H24N2O2
